US05238954
A mixture of 14.3 g of 8-methyl-2-(3-fluorophenyl)-4H-benzopyran-4-one, 17.2 g of N-bromosuccinimide and 3.5 g of azobisisobutyronitrile (AIBN) in 700 ml of carbon tetrachloride was refluxed for 6.5 hours, cooled to room temperature and stirred overnight and then diluted with 100 ml of water. The solvents were removed in vacuo and the residue recrystallized from hot ethyl acetate to give 16.5 g of 8-bromomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one which was used without further purification.

reactant | 8-methyl-2-(3-fluorophenyl)-4H-benzopyran-4-one | 14.3 g | CC1=CC=CC=2C(C=C(OC21)C2=CC(=CC=C2)F)=O | C16H11FO2
reactant | N-bromosuccinimide | 17.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 3.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 700 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 100 ml | O | H2O
product | 8-bromomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one | 16.5 g | BrCC1=CC=CC=2C(C=C(OC21)C2=CC(=CC=C2)F)=O | C16H10BrFO2
